US07816540B2
2-[2-(4-Chloro-phenyl)-benzoimidazol-1-yl]-N-(4-cyano-2-trifluoromethyl-phenyl)-2-cyclohexyl-acetamide
The title compound was prepared in analogy to example 22, int. d) from [2-(4-chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-cyclohexyl-acetic acid and 4-amino-3-trifluoromethylbenzonitrile. The compound was purified by preparative HPLC using a Gemini column and a gradient of acetonitrile:water (containing 0.5% formic acid). Light brown foam (42%). MS (ES+): M+H: 537.3.

reactant | [2-(4-chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-cyclohexyl-acetic acid | ClC1=CC=C(C=C1)C1=NC2=C(N1C(C(=O)O)C1CCCCC1)C=C(C(=C2)F)F | C21H19ClF2N2O2
reactant | 4-amino-3-trifluoromethylbenzonitrile | NC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
product | 2-[2-(4-Chloro-phenyl)-benzoimidazol-1-yl]-N-(4-cyano-2-trifluoromethyl-phenyl)-2-cyclohexyl-acetamide | ClC1=CC=C(C=C1)C1=NC2=C(N1C(C(=O)NC1=C(C=C(C=C1)C#N)C(F)(F)F)C1CCCCC1)C=CC=C2 | C29H24ClF3N4O
